US08278319B2
Stage 1: N,N-Dimethyl-8-phenyl-1,4-dioxaspiro[4.5]decan-8-amine
Acetic acid (30 ml) was added to a solution of 1,4-dioxaspiro[4.5]decan-8-one (128 mmol) in methanol (50 ml). The reaction mixture was cooled to 0° C. and dimethylamine solution (200 ml, 40% eq) was added dropwise. Potassium cyanide (2 eq) was added at the same temperature, then the cooling bath was removed and the reaction mixture stirred for 15 h at room temperature. It was hydrolysed with ammonium hydroxide solution (50% eq, 800 ml) and stirred for 1 h, then diluted with ethyl acetate. After phase separation the organic phase was washed with water, saturated sodium chloride solution and saturated iron sulfate solution and concentrated to small volume under vacuum. The crude dimethylaminonitrile intermediate (16 g) was dissolved in tetrahydrofuran (200 ml), cooled, and phenyl magnesium chloride solution (760 ml, 1 mol/l in hexane) was added dropwise. The cooling bath was removed and the reaction mixture stirred overnight at room temperature. It was hydrolysed with saturated ammonium chloride solution and diluted with ethyl acetate. After phase separation the organic phase was washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated to small volume under vacuum. The crude product was purified by column chromatography (silica gel) with methanol/DCM. Yield: 59%

reactant | Acetic acid | 30 ml | C(C)(=O)O | C2H4O2
reactant | 1,4-dioxaspiro[4.5]decan-8-one | 128 mmol | O1CCOC12CCC(CC2)=O | C8H12O3
reactant | dimethylamine | 200 ml | CNC | C2H7N
reactant | Potassium cyanide | 2 eq | [C-]#N.[K+]
solvent | methanol | 50 ml | CO | CH4O
product | N,N-Dimethyl-8-phenyl-1,4-dioxaspiro[4.5]decan-8-amine | Yield: 59% | CN(C1(CCC2(OCCO2)CC1)C1=CC=CC=C1)C | C16H23NO2
